US07385059B2
n-Butyl lithium (2.7 M solution in heptane) (3.3 ml, 9 mmol) was added drop wise to a stirred solution of trimethylsilyl diazomethane (2 M solution in diethyl ether) (4.5 ml, 9 mmol) in anhydrous THF (10 ml) at −78° C. under a nitrogen atmosphere, then stirred for a further 30 minutes. To this was added drop wise a solution of 2-benzylidene-but-3-yne nitrile (920 mg; 6 mmol) in anhydrous THF (5 ml), the mixture stirred for 30 minutes at −78° C. then gradually allowed to warm to room temperature overnight. The reaction mixture was diluted with ethyl acetate (30 ml) then washed with saturated ammonium chloride solution followed by brine. The ethyl acetate layer was separated, dried (MgSO4), filtered and evaporated. The crude product was purified by flash column chromatography eluting with 1:8 then 1:4 ethyl acetate/hexane and the product containing fractions combined and evaporated to give 1.0 g of 4-phenyl-5-trimethylsilanyl-1H-pyrazole-3-carbonitrile.

reactant | n-Butyl lithium | 9 mmol, 2.7 M, 3.3 ml | C(CCC)[Li]
reactant | trimethylsilyl diazomethane | 9 mmol, 2 M, 4.5 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-benzylidene-but-3-yne nitrile | 6 mmol, 920 mg | C(C1=CC=CC=C1)=C(C#N)C#C | C11H7N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-phenyl-5-trimethylsilanyl-1H-pyrazole-3-carbonitrile | 1.0 g | C1(=CC=CC=C1)C=1C(=NNC1[Si](C)(C)C)C#N | C13H15N3Si
